Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/p Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo woman w/ dementia coming in from ___ one day 
after a fall during which pt hit head. 

Per ED records: Pt denies any pain, headache, sob, n/v/d/c.  ___ 
denies any loc. Pt states "I'm fine" and refused CT/xray prior 
to being seen. Facial droop is chronic per records. 

In the ED, initial VS were: 98.3 88 156/72 18 99% RA  
Exam notable for:
Neuro: Cranial nerves II -XII intact, 5 out of 5 strength
bilaterally upper and lower extremities, full sensation
bilaterally
HEENT: No scleral icterus, nl posterior pharynx
Cardiovascular: Normal S1, S2, regular rate and rhythm, no
murmurs/rubs/gallops, 2+ peripheral pulses bilaterally
Pulmonary: Clear to auscultation bilaterally
Abdominal: Soft, nontender, nondistended, no masses
Extremities: No lower leg edema
Integumentary: No rashes noted
Labs showed: HCO3 19, dirty UA
Imaging showed: 1. No acute intracranial abnormality.
2. Layering fluid in the sphenoid and maxillary sinuses, 
suggests
sinusitis.
Patient received: 10mg IM Olanazapine, 2mg IM lorazepam to 
facilitate the CT scan, LR at 100cc/hr, CTX
Transfer VS were: 97.8 79 108/49 20 99% RA 

On arrival to the floor, patient is sound asleep after
psychotropic IM medications and unable to answer any questions. 
 
Past Medical History:
Per OMR dementia, breast ca, anxiety
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 24 HR Data (last updated ___ @ 548)
Temp: 98.4 (Tm 98.4), BP: 125/74, HR: 68, RR: 16, O2 sat: 98%, 
O2
delivery: RA  
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM 
VS: 97.5F BP 125/74, HR 75, RR 20, 97% RA
General: no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: JVP not elevated
Lungs: Clear to auscultation anteriorly, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present. 
No suprapubic tenderness. 
Ext: Warm, well perfused, 2+ pulses, non-edematous, non-tender
Neuro: A&Ox3, moving all extremities with purpose

 
Pertinent Results:
ADMISSION LABS
==============
___ 09:55PM BLOOD WBC-9.7 RBC-4.56 Hgb-13.5 Hct-43.3 MCV-95 
MCH-29.6 MCHC-31.2* RDW-13.5 RDWSD-46.8* Plt ___
___ 09:55PM BLOOD Plt ___
___ 10:40PM BLOOD ___ PTT-34.4 ___
___ 09:55PM BLOOD Glucose-110* UreaN-24* Creat-0.6 Na-144 
K-4.2 Cl-103 HCO3-19* AnGap-22*
___ 08:45AM BLOOD ALT-10 AST-16 AlkPhos-81 TotBili-0.2

DISCHARGE LABS
==============
___ 05:05AM BLOOD WBC-7.1 RBC-4.12 Hgb-12.4 Hct-38.8 MCV-94 
MCH-30.1 MCHC-32.0 RDW-13.8 RDWSD-47.8* Plt ___
___ 05:05AM BLOOD Glucose-99 UreaN-29* Creat-0.8 Na-145 
K-4.4 Cl-108 HCO3-26 AnGap-11
___ 05:05AM BLOOD Calcium-8.7 Phos-4.2 Mg-2.2

IMAGING 
=======
CT Head w/o contrast ___ 
1. No acute intracranial abnormality.  Please note MRI of the 
brain is more 
sensitive for the detection of acute infarct. 
2. No definite evidence of acute intracranial hemorrhage or 
acute fracture. 
3. Layering fluid in the sphenoid and maxillary sinuses, which 
may be seen in the setting of acute sinusitis. 
4. Grossly stable chronic right nasal bone minimally medially 
angulated 
deformity compared to ___ prior exam.  While finding 
may represent 
volume averaging artifact, differential considerations include 
chronic 
fracture. 
5.  Atrophy, probable small vessel ischemic changes, and 
atherosclerotic 
vascular disease as described. 

CXR ___ 
No focal consolidation.  No pleural effusion or pneumothorax.  
Small hiatal hernia is noted.  Cardiomediastinal silhouette is 
within normal limits when accounting for low lung volumes and AP 
technique. 

MICROBIOLOGY 
============

___ 1:00 am URINE

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 

 
Brief Hospital Course:
SUMMARY STATEMENT 
=================
___ yo woman w/ history of dementia from ___ who 
presented one day after
a fall with head strike who was found to have a UTI. 

ACUTE ISSUES:
===============
# Fall 
# UTI
Patient had a fall at ___ that may have been due to 
UTI. She had a head CT that did not reveal acute findings. Her 
UA was positive for nitrites, large leuks and 50 WBCs. Urine 
culture grew >100,000 CFU E. coli. She grew pan-sensitive E. 
coli on ___. She was treated with ceftriaxone initially, 
then narrowed to Bactrim for 3 days. 

#AMS
Patient noted to be lethargic at ___. Likely due to 
infection on poor substrate of dementia. CT head unremarkable 
despite recent headstrike. On the floor, patient was noted to be 
extremely somnolent, most likely due to 10mg IM olanzapine and 
2mg IM Ativan, which she received for sedation prior to head CT 
in the ED. Home clonazepam was held to prevent further sedation. 
She was placed on delirium precautions. Her somnolence improved 
prior to discharge. She refused medications on ___ after her 
somnolence resolved. Per family, she often refuses medications 
in the hospital likely due to her underlying dementia with 
possible superimposed delirium due to unfamiliar environment. 
Because her mental status returned to her baseline, patient was 
discharged back to ___. 

#___ 
Confirmed with HCP and son, ___, that patient is DNR/DNI. 

CHRONIC ISSUES:
===============
#Dementia: 
Continued delirium precautions as above. Per family, patient has 
limited mobility due to dementia. However, she remains alert and 
oriented to person, place and time. 

#OCD: 
Continued home ClomiPRAMINE 25 mg PO QHS 

#Anxiety: 
Held home ClonazePAM 0.25 mg PO QHS to reduce sedation. 

TI: 
[ ] Please complete UTI treatment with Bactrim for 3 days. 
[ ] Please continue to monitor mental status and change from 
baseline dementia. 
[ ] Please monitor for further falls. Would recommend fall 
precautions at rehab. 
[ ] the patient was found to have Layering fluid in the sphenoid 
and maxillary sinuses, which may be seen in the setting of acute 
sinusitis. This was not treated since her exam was not 
suggestive of sinusitis. Please follow up on her symptoms and 
consider sinusitis if fever recurs iso other than UTI. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO BID 
2. ClonazePAM 0.25 mg PO QHS 
3. Vitamin D 1000 UNIT PO DAILY 
4. ClomiPRAMINE 25 mg PO QHS 
5. TraZODone 25 mg PO BID:PRN insomnia 
6. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 3 Days  
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Calcium Carbonate 500 mg PO BID  
4.  ClomiPRAMINE 25 mg PO QHS  
5.  ClonazePAM 0.25 mg PO QHS  
6.  TraZODone 25 mg PO BID:PRN insomnia  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Toxic metabolic encephalopathy 
Urinary tract infection 
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
-You were admitted for a fall. 

WHAT HAPPENED IN THE HOSPITAL?
-You had a CT scan of your head which did not reveal a head 
bleed. 
-You were found to have a urinary tract infection and treated 
with antibiotics. 

WHAT SHOULD YOU DO AT HOME?
-You should continue to take your medications as prescribed. 
-You should follow-up with your doctors' appointments as 
indicated below. 

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___